US06780869B1
4,4,4-Trifluoro-1-[4-(methylthio)phenyl]butane-1,3-dione
To a solution of ethyl trifluoroacetate (7.95 ml, 1.1 eq) in MTBE (125 ml) was added dropwise 25% sodium methoxide in methanol (16 ml, 1.2 eq). 4-Methylthioacetophenone (Aldrich, 10 g, 0.06 mol) was added portionwise and the mixture stirred at ambient temperature overnight. 2N Hydrochloric acid (40 ml) was added cautiously and the organic phase separated, washed with brine and dried (Na2SO4) to give an orange solid. The orange solid was recrystallised from hot isopropanol to give the title compound as a yellow crystalline solid (11.25 g, 71%).

reactant | ethyl trifluoroacetate | 7.95 ml, 1.1 eq | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 16 ml, 1.2 eq | CO | CH4O
reactant | 4-Methylthioacetophenone | 0.06 mol, 10 g | CC(=O)C1=CC=C(C=C1)SC | C9H10OS
reactant | Hydrochloric acid | 2N, 40 ml | Cl | ClH
solvent | MTBE | 125 ml | CC(C)(C)OC | C5H12O
product | 4,4,4-Trifluoro-1-[4-(methylthio)phenyl]butane-1,3-dione | 11.25 g, 71% | FC(C(CC(=O)C1=CC=C(C=C1)SC)=O)(F)F | C11H9F3O2S
